US05189054
Scheme IV, step b: 3-Amino-2-carbethoxy-5,6-dichloroindole
Dissolve 3-nitro-2-carbethoxy-5,6-dichloroindole (38.1 g) in ethanol (1 L) and add tin (II) chloride dihydrate (163 g). Warm to between 65° and 75° C. for 4 to 5 hours. Cool to room temperature and pour into a mixture of ethyl acetate (3 L) and water (2 L). Add solid potassium carbonate and stir occasionally until the carbon dioxide evolution ceases. Filter throught diatomaceous earth and separate the organic phase of the filtrate. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound.

reactant | 3-nitro-2-carbethoxy-5,6-dichloroindole | 38.1 g | [N+](=O)([O-])C1=C(NC2=CC(=C(C=C12)Cl)Cl)C(=O)OCC | C11H8Cl2N2O4
reactant | tin (II) chloride dihydrate | 163 g | O.O.[Sn](Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | water | 2 L | O | H2O
solvent | ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
product | 3-Amino-2-carbethoxy-5,6-dichloroindole | NC1=C(NC2=CC(=C(C=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
